US09302989B2
methyl 1-(4-nitrophenyl)azetidine-3-carboxylate
A solution of methyl azetidine-3-carboxylate hydrochloride (1.236 g, 8.15 mmol) and N-methylmorpholine (2.338 ml, 21.26 mmol) in dimethylformamide (10 mL) was treated with a solution of 1-fluoro-4-nitrobenzene (1 g, 7.09 mmol) in dimethylformamide (7 mL) and the reaction was allowed to stir at room temperature for 60 hours. Water (50 mL) was added and the resulting suspension was stirred 10 minutes and filtered. The collected solid was washed with water and dried under vacuum. Flash chromatography of the collected solid provided the title compound.

reactant | methyl azetidine-3-carboxylate hydrochloride | 8.15 mmol, 1.236 g | Cl.N1CC(C1)C(=O)OC
reactant | N-methylmorpholine | 21.26 mmol, 2.338 ml | CN1CCOCC1 | C5H11NO
reactant | 1-fluoro-4-nitrobenzene | 7.09 mmol, 1 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | Water | 50 mL | O | H2O
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 7 mL | CN(C=O)C | C3H7NO
product | methyl 1-(4-nitrophenyl)azetidine-3-carboxylate | [N+](=O)([O-])C1=CC=C(C=C1)N1CC(C1)C(=O)OC | C11H12N2O4
